US08685969B2
9. 2-(Trimethylsilyl)ethyl 1-carbamoyl-4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indol-7-ylcarbamate
A solution of 2-((3-(1-carbamoyl-7-((2-(trimethylsilyl)ethoxy)carbonylamino)-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-chlorobenzoic acid (0.343 g, 0.533 mmol), DIPEA (0.279 mL, 1.599 mmol), N-methylmorpholine (0.469 mL, 4.26 mmol) and BOP (0.613 g, 1.386 mmol) in DMF (5.33 mL) under nitrogen was heated at 45° C. for 45 min. The reaction was cooled to room temperature, dissolved in EtOAc (100 mL) and washed with water (3×25 mL) and brine (25 mL), dried over MgSO4, and concentrated in vacuo to give a residue which was purified by flash chromatography using an ISCO 40 g column eluting with 30-75% EtOAc/hexanes. Appropriate fractions were collected and concentrated in vacuo to give the desired product (0.140 g, 0.224 mmol, 41.9% yield) as a light orange solid.

reactant | 2-((3-(1-carbamoyl-7-((2-(trimethylsilyl)ethoxy)carbonylamino)-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-chlorobenzoic acid | 0.533 mmol, 0.343 g | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)NC(=O)OCC[Si](C)(C)C)C=2C(=C(C=CC2)NCC2=C(C(=O)O)C=C(C=C2)Cl)C | C33H34ClN5O5Si
reactant | DIPEA | 1.599 mmol, 0.279 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylmorpholine | 4.26 mmol, 0.469 mL | CN1CCOCC1 | C5H11NO
reactant | BOP | 1.386 mmol, 0.613 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 5.33 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-(Trimethylsilyl)ethyl 1-carbamoyl-4-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indol-7-ylcarbamate | 0.224 mmol, 0.140 g, 41.9% yield | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)NC(OCC[Si](C)(C)C)=O)C2=C(C(=CC=C2)N2C(C1=CC(=CC=C1C2)Cl)=O)C | C33H32ClN5O4Si
